US08754229B2
Preparation of methyl 4-amino-6-(4-chlorophenyl)-5-fluoro-3-methoxypicolinate (Compound 31)
To a solution of methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate (200 mg, 0.852 mmol) in CH3CN (1.246 mL) and H2O (1.246 mL) were added 2-(4-chlorophenyl)-1,3,2-dioxaborinane (251 mg, 1.279 mmol), KF (149 mg, 2.56 mmol), palladium(II) acetate (Pd(OAc)2; 19.14 mg, 0.085 mmol), and triphenylphosphine-3,3′,3″-trisulfonic acid trisodium salt (100 mg, 0.170 mmol). The reaction mixture was then heated in a bench top Biotage microwave at 150° C. for 5 min. The reaction mixture was diluted with CH2Cl2 and washed with H2O. The organic layer was separated, dried over MgSO4, filtered and concentrated. The crude residue was purified by normal phase chromatography (eluting with 10% EtOAc/40% CH2Cl2/50% hexanes) to afford the title compound as a tan solid (191 mg, 72.1%): mp 93-94° C.; 1H NMR (400 MHz, acetone-d6) δ 7.96 (dd, J=8.8, 1.4 Hz, 2H), 7.57-7.49 (m, 2H), 5.93 (s, 2H), 3.92 (s, 3H), 3.91 (s, 3H), ESIMS m/z 311 ([M+H]+), 309 ([M−H]−).

reactant | methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate | 0.852 mmol, 200 mg | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)OC | C8H8ClFN2O3
reactant | 2-(4-chlorophenyl)-1,3,2-dioxaborinane | 1.279 mmol, 251 mg | ClC1=CC=C(C=C1)B1OCCCO1 | C9H10BClO2
reactant | KF | 2.56 mmol, 149 mg | [F-].[K+]
reactant | triphenylphosphine-3,3′,3″-trisulfonic acid trisodium salt | 0.170 mmol, 100 mg | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | CH3CN | 1.246 mL | CC#N | C2H3N
solvent | H2O | 1.246 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | palladium(II) acetate | 0.085 mmol, 19.14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-amino-6-(4-chlorophenyl)-5-fluoro-3-methoxypicolinate | 191 mg, 72.1% | NC1=C(C(=NC(=C1F)C1=CC=C(C=C1)Cl)C(=O)OC)OC | C14H12ClFN2O3
